US05371237
reacting the 4-hydroxy-2-oxopyrrolidin-1-yl-acetate with ammonia to provide a 4-hydroxy-2-oxopyrrolidin-1-yl-acetamide.

reactant | 4-hydroxy-2-oxopyrrolidin-1-yl-acetate | OC1CC(N(C1)CC(=O)[O-])=O
reactant | ammonia | N | H3N
product | 4-hydroxy-2-oxopyrrolidin-1-yl-acetamide | OC1CC(N(C1)CC(=O)N)=O | C6H10N2O3
